US04921867
4-Amino-3,5-dichloro-α-[[[6-[3-(5-nitro-2-pyridinyl)propoxy]hexyl]amino]methyl]benzenemethanol
A solution of 4-amino-α-aminomethyl)-3,5-dichlorobenzenemethanol (361 mg), 2-[3-[(6-bromohexyl)oxy]propyl]-5-nitropyridine (378 mg) and N,N-diisopropylethylamine (168 mg) in dimethylformamide (5 ml) was stirred at 100° for 3 h. The solvent was evaporated in vacuo to give an oil. Purification by FCC eluting with System A (95:5:1) gave the title compound as a yellow solid (250 mg), m.p. 60°-61°.

reactant | 3,5-dichlorobenzenemethanol | 361 mg | ClC=1C=C(C=C(C1)Cl)CO | C7H6Cl2O
reactant | 2-[3-[(6-bromohexyl)oxy]propyl]-5-nitropyridine | 378 mg | BrCCCCCCOCCCC1=NC=C(C=C1)[N+](=O)[O-] | C14H21BrN2O3
reactant | N,N-diisopropylethylamine | 168 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-Amino-3,5-dichloro-α-[[[6-[3-(5-nitro-2-pyridinyl)propoxy]hexyl]amino]methyl]benzenemethanol | 250 mg | NC1=C(C=C(C=C1Cl)C(O)CNCCCCCCOCCCC1=NC=C(C=C1)[N+](=O)[O-])Cl | C22H30Cl2N4O4
